US08835634B2
2 ml (19 mM) of 2-Chloronitrobenzene and 2.7 ml (36 mM) of 2,2-difluoroethyl amine in 2 ml of acetonitrile were refluxed under stirring for 24 h. Water was added and the aqueous layer was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was removed under vacuum to give 3.65 g of N-(2,2-difluoroethyl)-2-nitroaniline as an orange solid. Yield: 95%.

reactant | 2-Chloronitrobenzene | 19 mM, 2 ml | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | 2,2-difluoroethyl amine | 36 mM, 2.7 ml | FC(CN)F | C2H5F2N
reactant | Water | O | H2O
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | N-(2,2-difluoroethyl)-2-nitroaniline | 3.65 g, Yield: 95% | FC(CNC1=C(C=CC=C1)[N+](=O)[O-])F | C8H8F2N2O2
